US07511167B2
4-(1): Preparation of 6-methylamino-2-naphthonitrile
A solution of 6-bromo-N-methyl-2-naphthylamine (2.0 g, 8.5 mmol) in pyridine (50 ml) was added to copper (I) cyanide (1.1 g, 12.3 mmol). The mixture was stirred at 220° C. for 4 hours. The reaction mixture was allowed to cool to room temperature, extracted with dichloromethane, washed with an aqueous solution of hethylene diamine (10 vol %), and purified by column chromatography using hexane/ethyl acetate (4:1) as an eluting solvent to give the title compound (1.1 g, yield: 71%).

reactant | 6-bromo-N-methyl-2-naphthylamine | 8.5 mmol, 2.0 g | BrC=1C=C2C=CC(=CC2=CC1)NC | C11H10BrN
reactant | copper (I) cyanide | 12.3 mmol, 1.1 g | [Cu]C#N
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 6-methylamino-2-naphthonitrile | 1.1 g, yield: 71% | CNC=1C=C2C=CC(=CC2=CC1)C#N | C12H10N2
